US08039469B2
A microwave vial was charged with 8-(4-chloro-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane (0.440 g, 1.27 mmoles). Toluene (6 mL) was then added and the solution was sparged with nitrogen for 10 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.088 g, 0.076 mmol) and tributyl(3,6-dihydro-2H-pyran-4-yl)stannane (0.567 g, 1.52 mmol) were added. The vial was sealed and heated to 100° C. for 40 minutes via microwave. Additional tributyl(3,6-dihydro-2H-pyran-4-yl)stannane (0.283 g, 0.76 mmoles) and tetrakis(triphenylphosphine)palladium(0) (0.022 g, 0.019 mmol) were added and the suspension was heated to 110° C. by microwave for additional 90 minutes. The suspension was then cooled to room temperature and filtered through Celite™. The filter cake was washed with ethyl acetate and the filtrate was concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with 0-2% methanol in methylene chloride, to provide 8-(4-(3,6-dihydro-2H-pyran-4-yl)-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane (0.430 g, 86%) as a light yellow solid. HRMS 396.1666 (M+H, calc.), 396.1668 (M+H, obs.).

reactant | 8-(4-chloro-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane | 1.27 mmoles, 0.440 g | ClC1=NC(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])N1C2COCC1CC2 | C15H14ClN5O3
reactant | tributyl(3,6-dihydro-2H-pyran-4-yl)stannane | 1.52 mmol, 0.567 g | C(CCC)[Sn](C=1CCOCC1)(CCCC)CCCC
reactant | tributyl(3,6-dihydro-2H-pyran-4-yl)stannane | 0.76 mmoles, 0.283 g | C(CCC)[Sn](C=1CCOCC1)(CCCC)CCCC
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.076 mmol, 0.088 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.019 mmol, 0.022 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 8-(4-(3,6-dihydro-2H-pyran-4-yl)-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane | 0.430 g, 86% | O1CCC(=CC1)C1=NC(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])N1C2COCC1CC2 | C20H21N5O4
